US06133461
3-Nitro-2-methyl benzoic acid (90.5 g, 0.500 mol) was dissolved in 1.0 mol/L aqueous solution (500 ml) of sodium hydroxide. 10% Palladium-carbon (4.5 g) was added and the mixture was stirred under a hydrogen atmosphere (2-3 atm) for 9 hours at 40° C. The catalyst was filtered off and conc. sulfuric acid (94.0 ml) was added under ice-cooling. An aqueous solution of sodium nitrite (35.0 g, 0.500 mol/150 ml) was added over one hour while stirring the mixture at riot more than 6° C., and after the dropwise addition, the mixture was heated at 65° C. for 1.5 hours. The inner temperature rose to 57° C. in an hour. The reaction mixture was cooled to room temperature, and saturated brine (300 ml) was added. The mixture was extracted with ethyl acetate (700 ml). The organic layer was washed with saturated brine (200 ml) and dried over magnesium sulfate. The solvent was distilled away to give 3-hydroxy-2-methyl benzoic acid as a pale brown solid.

reactant | 3-Nitro-2-methyl benzoic acid | 0.500 mol, 90.5 g | [N+](=O)([O-])C=1C(=C(C(=O)O)C=CC1)C | C8H7NO4
reactant | sodium nitrite | 0.500 mol, 150 ml, 35.0 g | N(=O)[O-].[Na+]
solvent | sodium hydroxide | [OH-].[Na+]
solvent | brine | 300 ml | [Cl-].[Na+].O
catalyst | Palladium-carbon | 4.5 g | [C].[Pd]
product | 3-hydroxy-2-methyl benzoic acid | OC=1C(=C(C(=O)O)C=CC1)C | C8H8O3
